Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
hydromorphone
 
Attending: ___.
 
Chief Complaint:
PCP: 
Name: ___ 
Address: ___ 
Phone: ___ 
Fax: ___ 
+++++++++++++++++++++++++++++++++++++++++++++++++++++++++++++ 
CC:  Transferred for evaluation of Abdominal bloating weight
loss, concern for pancreatic vs biliary malignancy and biliary
obstruction
 
Major Surgical or Invasive Procedure:
PTBD - brush biopsy

 
History of Present Illness:
HPI:  ___ woman with gastric bypass, HLD, DM type 2 (on oral 
meds last HgbA1C = 10.2 in ___ c/b charcot foot, peripheral 
neuropathy, chronic osteomyelitis (on a prolonged caourse of 
nafcillin), severe AS with AV area < 1.0 cm2 on echo on 
___ who initially presented to ___ on ___ 
with painless jaundice and transaminitis. She had been on a 
prolonged course of nafcillin which was switched to cefazolin. 
  An ultrasound showed biliary dilation and also a total 
bilirubin of ___ s/p MRCP with diffuse intrahep. bil ductal dil. 
also CBC was 2cm in diameter and pancreatic duct dilated.  S/p 
EUS (unfortunately due to hx gastric bypass) however weren't 
able to visualize pancreatic head. Their gastroenterologist 
recommended transfer to ___ for surgery and advanced endoscopy 
evaluations.
CA ___ is 4000 suspicious for pancreatic malignancy in this 
context however dx has not been confirmed. Bilis have increased 
to 10.9 form 8.9 since admission. 
.
OPAT safety labs demonstrated rising LFTs. Her nafcillin was 
changed to cefazolin.
.
 Transfer for both ___ surgery and ERCP evaluations.
.
Upon arrival she denies pain, n/v/d. She is hungry but has not 
been allowed to eat since she was waiting to have the endoscopy 
performed. She denies fever, chills or chest pain.  

All other ROS negative
.

 
Past Medical History:
PMH: HTN, lipids, DM2, aortic stenosis, gastric bypass, murmur,
severe aortic stenosis, bilat TKR, h/o DVT/PE on coagulation w/ 
warfarin  
.
PAST SURGICAL HISTORY
S/P plantar exostectomy, ulcer excision ___
s/p B/L Charcot reconstruction ___
 R foot debridement ___:
s/p Debridement/Excision of ulcer, bone biopsy cuboid and 
intermediate cuneiform ___: 
 
Social History:
___
Family History:
Father died of MI at ___. Mother lived to ___. 
 
Physical Exam:
ADMISSION EXAM:
==============
Vitals:  98.1 P ___ / 82 ___
CONS: NAD, comfortable appearing  
HEENT: ncat deep jaundice, dry MM    
CV: s1s2 rrr, early peaking SEM  heard best at L upper and R
upper sternal borders
RESP: b/l ae no w/c/r  
GI: +bs, soft, NT, ND, no guarding or rebound  
back:  
MSK:no c/c/e 2+pulses  b/l
Both legs have trace edema 
SKIN: no rash  
NEURO: face symmetric speech fluent
She cannot tell me the day of the week. She can do MOYB to ___.
She is able to tell me why she is here. She knows that she is at
___.  
PSYCH: calm, cooperative  

===============
 
Pertinent Results:
OSH LABS
6.0/30.4\349
.
5.6/31.4\332
.
137|102|7   /
3.1| 28|0.69\168-252
Tbili = 10.1
Alk Phos = 828
SGPT = 84
SGOT = 315
Lipase = 339
OSH IMAGING
.
HgbA1C = 8.5%
___ High at 4057
.
DISCHARGE LABS:

# EUS (___): EUS was performed using a linear echoendoscope 
at ___ MHz frequency.  The head and uncinate pancreas were not 
imaged due to previous RYGB.  The body and tail [partially] were 
imaged from the gastric remnant. Pancreas duct: The pancreas 
duct measured 8 mm in maximum diameter in the body of the 
pancreas. We were not able to visualize the pancreatic duct in 
the head of the pancreas.  Despite multiple attempts and 
position changes, the head of the pancreas could not be imaged. 

# PTBD placement (___): 
FINDINGS:  
  
1.  Moderate to severe intrahepatic biliary tree with severe 
high-grade 
stenosis of the distal common bile duct. 
2.  Technically successful cytology brushings and forcep 
biopsies at the level 
of the common bile duct stricture. 
3.  Technically successful right 10 ___ internal external 
biliary drain 
placement across the common bile duct stricture via a right 
anterior approach. 
  
IMPRESSION:  
  
1..  Successful cytology brushings and forcep biopsies of the 
severe common 
bile duct stricture. 
2.  Successful placement of the right ___ internal-external 
biliary drain. 
  
RECOMMENDATION(S):  The right biliary drain should be left to 
external bag 
drainage. 

CTA pancreatic protocol ___:
IMPRESSION:  
1.  Pancreatic stent/neck mass concerning for pancreatic 
carcinoma.  The exact 
size of the mass is is difficult to accurately measure, but is 
at least 3.6 cm 
in the axial dimension.  There is involvement, > 180 degrees, of 
the SMA, main 
portal vein, and SMV.  Pancreatic ductal dilatation is present, 
to the level 
of the pancreatic tail.  Further details as above. 
2.  The main portal vein is almost completely occluded. 
3.  Post right anterior approach PTBD placement with only mild 
residual 
intrahepatic biliary dilatation. 

bile duct biopsy:
PATHOLOGIC DIAGNOSIS:
Bile duct, biopsy:
Adenocarcinoma, well-differentiated.
Eight levels examined.

  

___ 05:41AM BLOOD WBC-6.1 RBC-UNABLE TO  Hgb-9.5* Hct-32.0* 
MCV-UNABLE TO  MCH-UNABLE TO  MCHC-UNABLE TO  RDW-UNABLE TO  
RDWSD-UNABLE TO  Plt ___
___ 05:41AM BLOOD ___ PTT-42.4* ___
___ 03:43PM BLOOD ___ PTT-35.9 ___
___ 05:41AM BLOOD Glucose-146* UreaN-9 Creat-0.4 Na-136 
K-3.3 Cl-106 HCO3-18* AnGap-15
___ 05:41AM BLOOD ALT-20 AST-37 AlkPhos-370* TotBili-4.4*
___ 05:41AM BLOOD Phos-2.5* Mg-1.5*
___ 05:00AM BLOOD CEA-6.8*
CA ___  
  Test                          Result              Reference 
Range/Units
CA ___                       5841  H             <34 U/mL
 

 
Brief Hospital Course:
ASSESSMENT & PLAN: ___ h/o HTN, DM2 c/b peripheral 
neuropathy/Charcot foot and osteomyelitis, sev AS (low flow), 
h/o provoked PE on lifelong AC, s/p gastric bypass transferred 
from an OSH with weight loss, elevated LFTs and biliary 
obstruction concerning for malignancy, found to have 
adenocarcinoma. 
.
# Elevated Bilirubin, ___ (4000)
# Painless Jaundice
#pancreatic adenocarcinoma vs. cholangiocarcinoma
Ms. ___ is s/p gastric bypass, CCY.  Given painless 
jaundice, wt loss, elevated ___ (4000), malignancy (cholangio 
vs. pancreatic) was the leading differential.  She underwent EUS 
with the hopes of obtained a FNA of the pancreatic mass - 
however, the sites could not be reached.  As a result, she 
proceeded to PTBD on ___, where a biliary drain was placed and 
biopsies taken which revealed adenocarcinoma.
   The LFTs were monitored and improved after PTBD drainage 
placement. Drain was capped on ___ and she tolerated this well 
with improvement in her LFTs. She will need ongoing biliary tube 
management. 
   Pt will follow-up with Dr. ___ in ___ clinic 
to discuss further w/u and treatment of her pancreatic mass. 
Scheduled for ___. CTA pancreatic protocol performed prior to 
discharge.
She did not require any medication for pain during admission.

# DM2 poorly controlled with peripheral neuropathy, Charcot and 
chronic osteomyelitis s/p mult surgeries - recent foot ulcer 
debridement, MSSA cellulitis, and IV nafcillin ___.  BS here 
128-143 while NPO.  She was kept on ISS.  Metformin was held 
while in the hospital resumed on discharge.  
  The cefazolin for the foot infection was already held by OPAT 
on ___ given the elevated LFts. She had a follow up with OPAT 
this week for determination of further treatment. However, this 
was cancelled. She will follow up with podiatry next week and ID 
after that for ongoing management. She is non weight bearing 
lower extremities. 

# sev AS: ___ 1.1 cm2, EF 55%, low flow.  Gentle fluid 
resuscitation was given.  There was no clear signs of acute dCHF 
during this hospitalization. 
The Lasix 40 mg daily was held during admission. Can consider 
restarting on discharge, but would monitor PO intake at same 
time as PO intake decreased recently. 

# Hx of DVT/PE: Patient on warfarin. Remote DVT but on lifelong 
AC.  The anticoagulation was restarted ___. INR today 3, so 
would hold dose today. ___ home dose was given ___

# HLD: Held pravastatin due to LFTs. 
# s/p Gastric Bypass  
Continued MVI, vitamin C, B12, D 

# FEN: regular
# DVT PROPHYLAXIS: warfarin
# Lines and drains: PICC line removed prior to DC
# Code Status: FULL CODE, per paperwork but should be discussed 
with dtr but I am not sure that she has capacity.
# HCP Yes
Name of health care ___
Relationship:daughter
Phone ___
Cell ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 1000 mg PO BID 
2. Famotidine 20 mg PO BID 
3. Pravastatin 20 mg PO QPM 
4. Warfarin 5 mg PO DAILY16 
5. Vitamin D Dose is Unknown  PO DAILY 
6. Ascorbic Acid ___ mg PO DAILY 
7. Calcium Carbonate 1250 mg PO DAILY 
8. Cyanocobalamin 500 mcg PO DAILY 
9. Furosemide 40 mg PO DAILY 
10. Multivitamins 1 TAB PO DAILY 
11. Ferrous Sulfate 325 mg PO DAILY 
12. Senna 17.2 mg PO DAILY 
13. Lactobacillus acidophilus Dose is Unknown  oral DAILY 
14. Potassium Chloride 20 mEq PO DAILY 

 
Discharge Medications:
1.  Lactobacillus acidophilus 1 unit oral DAILY  
2.  Vitamin D 800 UNIT PO DAILY  
3.  Warfarin 2 mg PO DAILY16 
hold dose ___, check INR ___ and consider restarting lower 
dose  
4.  Ascorbic Acid ___ mg PO DAILY  
5.  Calcium Carbonate 1250 mg PO DAILY  
6.  Cyanocobalamin 500 mcg PO DAILY  
7.  Famotidine 20 mg PO BID  
8.  Ferrous Sulfate 325 mg PO DAILY  
9.  Furosemide 40 mg PO DAILY 
may need to be stopped depending on PO intake. Not given during 
admission  
10.  MetFORMIN (Glucophage) 1000 mg PO BID  
11.  Multivitamins 1 TAB PO DAILY  
12.  Potassium Chloride 20 mEq PO DAILY  
13.  Senna 17.2 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Painless jaundice
Pancreatic mass/adenocarcinoma

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
   
    It was a pleasure looking after you.  You were admitted with 
jaundice - caused by an obstruction of the bile duct. To relieve 
this obstruction, you underwent an interventional radiology 
procedure with placement of biliary drain and stent through the 
obstructed site.  Biopsies were also sent for diagnosis (to 
determine the cause of the obstruction) and returned positive 
for cancer.

   For this stent, it was capped before discharge. After your 
team meeting next week, the radiology doctors ___ help to 
decide on metal stent placement. 
 
Followup Instructions:
___